US09428495B2
ER-886133 and ER-886134: A solution of (S)-2-((benzyloxy)methyl)oxirane (65 g, 0.396 mol) and 28% NH4OH in water was stirred at rt for 14 h after which time the completed reaction was concentrated and azeotroped two times with toluene (150 mL each) to obtained (S)-1-amino-3-(benzyloxy)propan-2-ol (70.6 g, 0.390 mol, 98% yield) as a crude white solid.

reactant | (S)-2-((benzyloxy)methyl)oxirane | 0.396 mol, 65 g | C(C1=CC=CC=C1)OC[C@H]1OC1 | C10H12O2
reactant | NH4OH | [NH4+].[OH-]
solvent | water | O | H2O
product | (S)-1-amino-3-(benzyloxy)propan-2-ol | 0.390 mol, 70.6 g, 98% yield | NC[C@@H](COCC1=CC=CC=C1)O | C10H15NO2
